US08383644B2
(S)-6,7-Dihydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester
To a solution of (S)-6,7-dihydroxy-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid methyl ester (4.46 g) in dioxane (100 mL) and water (50 mL) were added di-tert-butyl dicarbonate (6.6 g) and sodium bicarbonate (4.2 g). The reaction mixture was vigorously stirred at ambient temperature for 4 h. After the reaction was complete, hydrazine (10 mL, 50% solution in water) was added to this reaction mixture and stirred for 4 h to cleave carbonate. The reaction mixture was extracted with ethyl acetate (2×100 mL) then the organic extracts were combined and washed with 1N HCl (25 mL) and brine solution (50 mL) and condensed in vacuo to give desired product, (S)-6,7-dihydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester in quantitative yield. LCMS (m/z): 324.

reactant | (S)-6,7-dihydroxy-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid methyl ester | 4.46 g | COC(=O)[C@H]1NCC2=CC(=C(C=C2C1)O)O | C11H13NO4
reactant | di-tert-butyl dicarbonate | 6.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 4.2 g | C([O-])(O)=O.[Na+]
reactant | hydrazine | 10 mL | NN | H4N2
reactant | carbonate | C([O-])([O-])=O
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | (S)-6,7-dihydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester | COC(=O)[C@H]1N(CC2=CC(=C(C=C2C1)O)O)C(=O)OC(C)(C)C | C16H21NO6
